US07067537B2
ii) Production of 3-[4-(3-bromo-4-fluorophenyl)-1,3-thiazol-2-yl]-4-(trifluoromethyl)pyridine
By the reaction in the same manner as in Example 25-iii) using 2-bromo-1-(3-bromo-4-fluorophenyl)ethanone (3.10 g) and 4-trifluoromethylpyridine-3-thiocarboxamide (1.87 g), the title compound (1.50 g) was obtained as brown needle crystals.

reactant | 2-bromo-1-(3-bromo-4-fluorophenyl)ethanone | 3.10 g | BrCC(=O)C1=CC(=C(C=C1)F)Br | C8H5Br2FO
reactant | 4-trifluoromethylpyridine-3-thiocarboxamide | 1.87 g | FC(C1=C(C=NC=C1)C(N)=S)(F)F | C7H5F3N2S
product | 3-[4-(3-bromo-4-fluorophenyl)-1,3-thiazol-2-yl]-4-(trifluoromethyl)pyridine | 1.50 g | BrC=1C=C(C=CC1F)C=1N=C(SC1)C=1C=NC=CC1C(F)(F)F | C15H7BrF4N2S
